US04894386
A mixture of methyl 4-[5-(1-hydroxyallyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.8 g), N,N-dimethylacetamide dimethyl acetal (0.542 g, redistilled) in dry toluene (20 ml) was stirred and heated under reflux, under an atmosphere of nitrogen for 5 hr. The cooled solution was introduced directly onto a column of silica gel and the product purified by flash chromatography, eluting with ethyl acetate, to give methyl E-4-[5-[5-(dimethylamino)-5-oxopent-1-enyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate (0.72 g, 77%) as an oil: partial NMR (250 MHz, DMSO-d6): 0.81(t, 3H, CH2CH3), 1.75(m, 2H, CH2CH3), 2.45(m, 4H, CH2CH2CO), 2.82(s, 3H, NCH3), 2.98(s, 3H, NCH3), 3.83(s, 3H, OCH3), 3.92(s, 3H, OCH3), 4.0(m, 4H, ArCH2Ar', NCH2), 6.2(d of t, 1H, CH2CH=CH), 6.45(d, J=15.8 Hz, 1H, CH2CH=CH).

reactant | methyl 4-[5-(1-hydroxyallyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.8 g | OC(C=C)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H27NO4
reactant | N,N-dimethylacetamide dimethyl acetal | 0.542 g | COC(C)(N(C)C)OC | C6H15NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl E-4-[5-[5-(dimethylamino)-5-oxopent-1-enyl]-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 0.72 g, 77% | CN(C(CC/C=C/C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC)=O)C | C28H34N2O4
